US04478967
B. 4,5-Dimethoxy-2-nitrobenzyl hexadecanesulfonate (Compound 10)
To a solution of 5.33 g (0.025 mol) of 4,5-dimethoxy-2-nitrobenzyl alcohol and 8.15 g (0.025 mol) hexadecanesulfonyl chloride in 100 ml of acetone, dicyclohexylamine (5 ml, slight excess) was added via motor driven syringe over 30 minutes. After the addition was complete, the reaction was stirred an additional 30 minutes. The precipitated dicyclohexylamine hydrochloride was removed by filtration and the acetone filtrate reduced in volume in vacuo until most of the product had precipitated (yield 9.5 g, m.p. 81°-82° C.).

reactant | 4,5-dimethoxy-2-nitrobenzyl alcohol | 0.025 mol, 5.33 g | COC1=CC(=C(CO)C=C1OC)[N+](=O)[O-] | C9H11NO5
reactant | hexadecanesulfonyl chloride | 0.025 mol, 8.15 g | C(CCCCCCCCCCCCCCC)S(=O)(=O)Cl | C16H33ClO2S
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | dicyclohexylamine | 5 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
product | 4,5-Dimethoxy-2-nitrobenzyl hexadecanesulfonate | C(CCCCCCCCCCCCCCC)S(=O)(=O)OCC1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-] | C25H43NO7S
